US06509328B1
[2-Amino-4-(4-trifluoromethoxy-phenylethynyl)-phenyl]-carbamic Acid tert.-Butyl Ester
Prepared from [2-nitro-4-(4-trifluoromethoxy-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester (Example F12) (1.09 g, 2.58 mmol) by reduction with SnCl2.2H2O (2.91 g, 12.9 mmol) according to the general procedure G (method b). Obtained as a light brown solid (690 mg).

reactant | [2-nitro-4-(4-trifluoromethoxy-phenylethynyl)-phenyl]-carbamic acid tert.-butyl ester | 2.58 mmol, 1.09 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)OC(F)(F)F)[N+](=O)[O-])=O | C20H17F3N2O5
reactant | SnCl2.2H2O | 12.9 mmol, 2.91 g | O.O.Cl[Sn]Cl
product | [2-Amino-4-(4-trifluoromethoxy-phenylethynyl)-phenyl]-carbamic Acid tert.-Butyl Ester | 690 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)OC(F)(F)F)N)=O | C20H19F3N2O3
